US07285682B2
A solution of 2-(2-methyl-1,1′-biphenyl-3-yl)naphthalene (2.0 g, 6.8 mmol) and 200 mg of benzoyl peroxide was refluxed, then NBS (1.21 g, 6.8 mmol) was added. The reaction mixture was refluxed overnight, diluted with methylene chloride, washed with water and dried over MgSO4. Removal of solvent under reduced pressure gave a crude product. The crude product was dissolved in 20 mL of DMF and sodium cyanide (0.65 g, 13 mmol) was added. The reaction was stirred at room temperature for 2 hours, diluted with ethyl acetate, washed with water and dried over MgSO4. Removal of solvent under reduced pressure gave a crude product that was purified by silica gel chromatography eluting with 0.4% ethyl acetate/hexanes to give 1.15 g of (3-naphthalen-2-yl-biphenyl-2-yl)-acetonitrile: 1H NMR (CDCl3): δ 3.43 (s, 2H), 7.30-7.60 (m, 11H), 7.80-7.95 (m, 4H).

reactant | 2-(2-methyl-1,1′-biphenyl-3-yl)naphthalene | 6.8 mmol, 2.0 g | CC1=C(C=CC=C1C1=CC2=CC=CC=C2C=C1)C1=CC=CC=C1 | C23H18
reactant | benzoyl peroxide | 200 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | NBS | 6.8 mmol, 1.21 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | sodium cyanide | 13 mmol, 0.65 g | [C-]#N.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-naphthalen-2-yl-biphenyl-2-yl)-acetonitrile | 1.15 g | C1=C(C=CC2=CC=CC=C12)C=1C(=C(C=CC1)C1=CC=CC=C1)CC#N | C24H17N
